US09079866B2
Step A: N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanesulfonamide
The title compound was prepared using methods analogous to those described in Step A of Example 490 using 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline for 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline and ethanesulfonyl chloride. 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 7.82-7.74 (m, 1H), 7.64 (d, J=8.3, 1H), 7.49-7.41 (m, 1H), 7.14-7.06 (m, 1H), 3.12 (q, J=7.4, 2H), 1.37 (s, 12H), 1.32 (t, J=7.4, 3H).

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanesulfonamide | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)CC)C | C14H22BNO4S
